US08492559B2
Stage 3: tert-Butyl 2-(6-(3-chloro-1H-indole-2-carboxamido)-1H-indol-1-yl)acetate
DIPEA (2.5 equiv.), EDCI (2.73 mmol, 1.2 equiv.) and HOBt (2.73 mmol, 1.2 equiv.) were added at 0° C. to a solution of 3-chloro-1H-indole-2-carboxylic acid (2.27 mmol, 1.0 equiv.) in DMF (6 ml), and the mixture was stirred for 15 min. tert-Butyl 2-(6-amino-1H-indol-1-yl)acetate (intermediate A—for synthesis see above) (2.27 mmol, 1.0 equiv.) was dissolved in DMF (1 ml) and added, with stirring, and the reaction mixture was then stirred for 12 h at 25° C. The mixture was diluted with dichloromethane (50 ml), washed with sat. ammonium chloride solution (20 ml), water (20 ml) and sat. NaCl solution (20 ml), dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography (10-15% ethyl acetate in hexane). Yield: 55%

reactant | DIPEA | 2.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 2.73 mmol, 1.2 equiv. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 2.73 mmol, 1.2 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-chloro-1H-indole-2-carboxylic acid | 2.27 mmol, 1.0 equiv. | ClC1=C(NC2=CC=CC=C12)C(=O)O | C9H6ClNO2
reactant | tert-Butyl 2-(6-amino-1H-indol-1-yl)acetate | 2.27 mmol, 1.0 equiv. | NC1=CC=C2C=CN(C2=C1)CC(=O)OC(C)(C)C | C14H18N2O2
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-Butyl 2-(6-(3-chloro-1H-indole-2-carboxamido)-1H-indol-1-yl)acetate | Yield: 55% | ClC1=C(NC2=CC=CC=C12)C(=O)NC1=CC=C2C=CN(C2=C1)CC(=O)OC(C)(C)C | C23H22ClN3O3
